datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8])([H:6])[H:7],19.2464
[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])([H:9])[H:10],243.21592
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])[H:8])([H:6])[H:7],58.9944
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],43.4718
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([C:8]([H:19])([H:20])[H:21])[C:7]1([H:17])[H:18])[H:9],85.4373
[C:0]([S:1][S:2][H:5])([H:3])[H:4]>>[C:0]([S:1][S:2])([H:3])([H:4])[H:5],67.1532
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])([H:9])[H:10],66.0654
[H:0][H:1].[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]12>>[H:0].[H:1][c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]12,17.183688
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([O:12][O:13])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:13][O:12][C:11]([C:10]([H:14])([H:15])[H:16])([H:17])[H:18],49.87328
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([H:12])([H:13])[H:14],7.9496
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15](=[O:16])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:14]([C:13]([H:17])([H:18])[H:19])([C:15](=[O:16])[H:21])[H:20],-8.95376
[C:0]([S:1][S:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[H:10]>>[C:0]([H:4])([H:5])[H:6].[S:1]([S:2][C:3]([H:7])([H:8])[H:9])[H:10],21.3384
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27],62.5508
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][O:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:15][O:16],155.72848
[O:0][C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)([H:12])[H:13]>>[H:12].[O:0]=[C:1]([c:2]1[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]2[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]12)[H:13],93.089816
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],50.6264
[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:15])([H:16])[H:17].[O:27][O:28]>>[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:16])[H:17].[H:15][O:27][O:28],173.008
